US09376449B2
To a mixture of 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (116 mg), diisopropylethylamine (0.146 mL), and tetrahydrofuran (4.63 mL) was added 4-nitrophenyl 1-methoxycarbamate (90.9 mg), warming to 60° C. and stirring for 3.5 hours. To the mixture were added chloroform and a 1 M aqueous sodium hydroxide solution, followed by stirring, and the organic layer was separated using a phase separator (Biotage) and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=50:1 to 10:1 amino silica gel). The obtained crude product was solidified with diisopropyl ether, and the obtained solid was collected by filtration and dried under reduced pressure to obtain 5-methoxy-3-{2-[(methoxycarbamoyl)amino]ethyl}-N-methyl-1H-indole-2-carboxamide (42.6 mg).

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 116 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | diisopropylethylamine | 0.146 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 4.63 mL | O1CCCC1 | C4H8O
product | 5-methoxy-3-{2-[(methoxycarbamoyl)amino]ethyl}-N-methyl-1H-indole-2-carboxamide | 42.6 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)NC)CCNC(NOC)=O | C15H20N4O4
